US06221865B1
N-t-Butoxycarbonyl-2(S)-hydroxymethylazetidine
Azetidine-2-carboxylic acid (1.25 g, 12.4 mmol) was dissolved in 10 mL of 2M aqueous sodium carbonate and a solution of di-tert-butyldicarbonate in 10 mL of THF was added and the mixture was stirred overnight. The mixture was diluted with water and ether and the layers were separated. The ether layer was washed with water and pH of the combined aqueous phases adjusted to ˜2 with phosphoric acid. The mixture was extracted with 4 portions of 20% isopropanot/chloroform and the combined organic phases were dried, filtered and concentrated. The residue was dissolved in 15 mL of THF and cooled in an ice bath. The solution was treated with 25 mL of borane in THF (1M, 25 mmol) and stirring was continued for 1 hour. The ice bath was removed and the solution stirred for 2 hours and then quenched by the careful addition of 25 mL of 4:1 THF/water. The mixture was stirred for 15 minutes, carefully treated with 25 mL of 1N aqueous HCl, and diluted with ethyl acetate. The layers wre separated and the aqueous layer extracted with 2 additional portions of ethyl acetate. The combined organic fractions were washed with 2M aqueous sodium carbonate, water, brine, and dried, filtered and concentrated to provide 2.18 g (94%) of the title compound. MS (DCI, NH3): 188 (MH+).

reactant | Azetidine-2-carboxylic acid | 12.4 mmol, 1.25 g | N1C(CC1)C(=O)O | C4H7NO2
reactant | di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | borane | 25 mL | B | BH3
solvent | sodium carbonate | 2M, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | THF | 25 mmol, 1M | C1CCOC1 | C4H8O
product | N-t-Butoxycarbonyl-2(S)-hydroxymethylazetidine | 2.18 g, 94% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CO | C9H17NO3
